US09359367B2
Step 3: 3-(4-(4-fluorophenyl) piperazin-1-yl)-4,4-dimethylcyclopent-1-enecarbonitrile.
To a stirred solution of 3-hydroxy-4,4-dimethylcyclopent-1-enecarbonitrile (1.5 g, 10.93 mmol) in dichloromethane (20 ml) was added diisopropylethylamine, (5.73 ml, 32.8 mmol) under nitrogen atmosphere. Reaction mixture was cooled to 0-5° C. Methane sulfonyl chloride (1.278 ml, 16.40 mmol) in 2 ml dichloromethane was added drop wise at 0-5° C. in 10 mins. Reaction mixture was stirred at 0-5° C. for 3 h. Progress of reaction was monitored by TLC. Reaction mixture was diluted with dichloromethane (20 ml) and washed with water (2×10 ml), organic layer was dried on sodium sulfate and concentrated under reduced pressure to get sticky compound which was dissolved in dry N,N-dimethylformamide (15 ml) and cooled to 0-5° C. followed by addition of diisopropylethylamine (5.73 ml, 32.8 mmol) and 1-(4-fluorophenyl)piperazine (1.971 g, 10.93 mmol) under nitrogen atmosphere. Reaction mixture was gradually warmed to 25-30° C. and stirring continued for 16 h. Progress of reaction was monitored by TLC. Reaction mixture was concentrated under reduced pressure to obtain crude product which was dissolved in ethyl acetate (100 ml) and washed with water (3×25 ml). Combined organic layer was dried on sodium sulphate and concentrated under reduced pressure to get crude oily product. Crude compound was purified over silica gel (100-200 mesh) by flash column chromatography using 20% ethyl acetate in hexane to obtain title compound (0.260 g).

reactant | 3-hydroxy-4,4-dimethylcyclopent-1-enecarbonitrile | 10.93 mmol, 1.5 g | OC1C=C(CC1(C)C)C#N | C8H11NO
reactant | diisopropylethylamine | 32.8 mmol, 5.73 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Methane sulfonyl chloride | 16.40 mmol, 1.278 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diisopropylethylamine | 32.8 mmol, 5.73 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(4-fluorophenyl)piperazine | 10.93 mmol, 1.971 g | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3-(4-(4-fluorophenyl) piperazin-1-yl)-4,4-dimethylcyclopent-1-enecarbonitrile | 0.260 g | FC1=CC=C(C=C1)N1CCN(CC1)C1C=C(CC1(C)C)C#N | C18H22FN3
